US04950674
4-[Bis(4-fluorophenyl)methylene]piperidine hydrobromide [1:1]
A mixture of 164 g (0.342 mole) of α,α-bis(4-fluorophenyl)-1-(phenylsulfonyl)-4-piperidinemethanol and 80 g (80 g) of phenol in 700 ml of 48% hydrobromic acid was heated at reflux for 7 hr and then was stirred at room temperature for 9 hr. The hydrobromic acid solution was decanted from a gum in the bottom of the reaction flask. The gum was triturated with ~1 liter of ether, and a tan solid formed. The solid was washed with several portions of ether and was dried under high vacuum to give 9.13 g (73%) of slightly impure title product, m.p. 211°-215° C. A small sample of this solid was recrystallized from methanol to give an analytically pure sample as a crystalline solid; m.p. 216°-218° C.

reactant | α,α-bis(4-fluorophenyl)-1-(phenylsulfonyl)-4-piperidinemethanol | 0.342 mole, 164 g | FC1=CC=C(C=C1)C(O)(C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)F | C24H23F2NO3S
reactant | phenol | 80 g | C1(=CC=CC=C1)O | C6H6O
reactant | hydrobromic acid | 700 ml | Br | BrH
product | 4-[Bis(4-fluorophenyl)methylene]piperidine hydrobromide | Br.FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | InChI=1S/C18H17F2N.BrH/c19-16-5-1-13(2-6-16)18(15-9-11-21-12-10-15)14-3-7-17(20)8-4-14;/h1-8,21H,9-12H2;1H
